US07273868B2
To a solution of diisopropylamine 3.76 g in tetrahydrofuran 25 ml is dropped at −78° C. n-butyllithium (23.2 ml). The mixture is stirred at 0° C. for 10 minutes and thereto is added 2,6-dichloropyridine 5.0 g in tetrahydrofuran 25 ml at −78° C. over a period of 20 minutes. The mixture is stirred at −78° C. for 3 hours. The reaction mixture is poured into powdered dry ice and is left at room temperature overnight. After removal of the solvent the residue is dissolved in a mixture of ethyl acetate and a 10% aqueous sodium hydroxide solution, and the water layer is separated and made acid with concentrated hydrochloric acid. The resulting colorless precipitate is filtered and washed with cold water to give 2,6-dichloronicotinic acid 4.50 g. mp 148-150° C., MS(ESI): 190(M−H)−

reactant | diisopropylamine | 3.76 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 23.2 ml | C(CCC)[Li]
reactant | 2,6-dichloropyridine | 5.0 g | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
reactant | dry ice | C(=O)=O | CO2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 2,6-dichloronicotinic acid | 4.50 g | ClC1=C(C(=O)O)C=CC(=N1)Cl | C6H3Cl2NO2
